datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)c1ccc(O)c2c1ccc[n:10]2.Clc1ccc[n+:21]([H:20])c1>>CC(=O)c1ccc(O)c2c1ccc[n+:10]2[H:20].Clc1ccc[n:21]c1 10=20;20,21=21",
"CNC(=O)c1cccc[n:10]1.O=[N+]([O-])c1ccc([O:21][H:20])c(C[NH+]2CCOCCOCCOCCOCCOCC2)c1>>CNC(=O)c1cccc[n+:10]1[H:20].O=[N+]([O-])c1ccc([O-:21])c(C[NH+]2CCOCCOCCOCCOCCOCC2)c1 10=20;20,21=21",
"COC(=O)c1cc[n+:21]([H:20])cc1.Cn1cnc(C(=O)[O-:10])c1C(=O)O>>COC(=O)c1cc[n:21]cc1.Cn1cnc(C(=O)[O:10][H:20])c1C(=O)O 10=20;20,21=21",
"CC[N+:21]1([H:20])CCCC1CNS(=O)(=O)c1ccc(OC)c(OC)c1OC.[NH3+]CCCC#CC#CCCC(=O)[O-:10]>>CC[N:21]1CCCC1CNS(=O)(=O)c1ccc(OC)c(OC)c1OC.[NH3+]CCCC#CC#CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CC#N)[H:20].CN1C(=O)C2(CCCCC2)[N-:10]C1=S>>CC[N:21](CC)CC#N.CN1C(=O)C2(CCCCC2)[N:10]([H:20])C1=S 10=20;20,21=21",
"C[NH+](C)Cc1cc(C(C)(C)C)cc(C[NH+](C)C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)Cc1cc(C(C)(C)C)cc(C[NH+](C)C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc([O:21][H:20])ccc1O.O=C([O-])c1ccc2sc(Cn3cc[n:10]c3)cc2c1>>Cc1cc([O-:21])ccc1O.O=C([O-])c1ccc2sc(Cn3cc[n+:10]([H:20])c3)cc2c1 10=20;20,21=21",
"CCC[NH:10]C(C)C(=O)Nc1ccccc1C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC[NH+:10](C(C)C(=O)Nc1ccccc1C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(Cc1ccccc1)[NH+:21](CCC#N)[H:20].Cc1ccc(/C(N)=[N:10]\O)cc1>>CC(Cc1ccccc1)[NH:21]CCC#N.Cc1ccc(/C(N)=[N+:10](\O)[H:20])cc1 10=20;20,21=21",
"CCOc1ccccc1[NH2:10].O=C1[C@@H]2C[C@@H](C[N+:21]3([H:20])CCCC[C@@H]23)[C@H]2CCCCN12>>CCOc1ccccc1[NH2+:10][H:20].O=C1[C@@H]2C[C@@H](C[N:21]3CCCC[C@@H]23)[C@H]2CCCCN12 10=20;20,21=21",
"Cc1cc(C)c([O-:10])cc1C(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(C)c([O:10][H:20])cc1C(C)C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1=[N:10]CCCCN1.CCCC(=O)O[O:21][H:20]>>CC1=[N+:10]([H:20])CCCCN1.CCCC(=O)O[O-:21] 10=20;20,21=21",
"CN[C@H]1C[C@]1(C)[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CN[C@H]1C[C@]1(C)[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(Nc1ccccc1)=[N+:21](c1ccccc1)[H:20].O=Cc1cc[n:10]cc1>>CC(Nc1ccccc1)=[N:21]c1ccccc1.O=Cc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CC(=O)CC[N+:21](C)(C)[H:20].O=C([O-])c1cc2ccccc2cc1[O-:10]>>CC(=O)CC[N:21](C)C.O=C([O-])c1cc2ccccc2cc1[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)c1cc[n+:21]([H:20])c(C(C)(C)C)c1.Oc1c(Br)cc(Br)c2ccc[n:10]c12>>CC(C)(C)c1cc[n:21]c(C(C)(C)C)c1.Oc1c(Br)cc(Br)c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"[H:20][OH:21].CC1=CC(=C(C(=C1)C)[N+]2=[C-:10]N3CCCC3=N2)C>>[H:20][C:10]1=[N+](N=C2N1CCC2)C3=C(C=C(C=C3C)C)C.[OH-:21] 10=20;20,21=21",
"CC(C)C[NH:10]CC(C)C.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)C[NH+:10](CC(C)C)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"O=C([O-])c1ccc([O:21][H:20])c([N+](=O)[O-])c1.c1ccc2c[n+](CC[NH2:10])ccc2c1>>O=C([O-])c1ccc([O-:21])c([N+](=O)[O-])c1.c1ccc2c[n+](CC[NH2+:10][H:20])ccc2c1 10=20;20,21=21",
"CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccccc3)C(=O)N2[C@@H]1C(=O)[O:21][H:20].CCCCCCCCCC(=O)[O-:10]>>CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccccc3)C(=O)N2[C@@H]1C(=O)[O-:21].CCCCCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(C(=O)[O-:10])c(C)c1.Oc1cccc2c1ccn[n+:21]2[H:20]>>Cc1ccc(C(=O)[O:10][H:20])c(C)c1.Oc1cccc2c1ccn[n:21]2 10=20;20,21=21",
"Nc1nc[n+:21]([H:20])c2c1cnn2CCO.c1cc(N2CCOCC2)c2c([N:10]3CCOCC3)cccc2c1>>Nc1nc[n:21]c2c1cnn2CCO.c1cc(N2CCOCC2)c2c([N+:10]3([H:20])CCOCC3)cccc2c1 10=20;20,21=21",
"CCOC(=O)/C(C)=N/[O:21][H:20].CC[N:10]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O-]>>CCOC(=O)/C(C)=N/[O-:21].CC[N+:10]1([H:20])CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O-] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCC(C)(C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCC(C)(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"Cc1csc(c2ccc([N-:10]S(=O)(=O)c3ccc(N)cc3)cc2)n1.O=C(C1=C(CO)CCC1)[O:21][H:20]>>Cc1csc(c2ccc([N:10](S(=O)(=O)c3ccc(N)cc3)[H:20])cc2)n1.O=C(C1=C(CO)CCC1)[O-:21] 10=20;20,21=21",
"C[N+:21]1([H:20])CCC=C(C(=O)[O-])C1.S=C(c1cccc(Br)c1)[N-:10]c1ccc(Br)cc1>>C[N:21]1CCC=C(C(=O)[O-])C1.S=C(c1cccc(Br)c1)[N:10](c1ccc(Br)cc1)[H:20] 10=20;20,21=21",
"S=C(c1ccccc1)[N-:10]c1ccc(Cl)cc1.c1ccc(-c2cc[n+:21]([H:20])[nH]2)[nH+]c1>>S=C(c1ccccc1)[N:10](c1ccc(Cl)cc1)[H:20].c1ccc(-c2cc[n:21][nH]2)[nH+]c1 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])C=C1.[OH-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)C=C1.[OH:10][H:20] 10=20;20,21=21",
"CCC[NH:10]CCC.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC[NH+:10](CCC)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccncc1>>N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccncc1)[H:20] 10=20;20,21=21",
"CC(C(N)=O)S(=O)(=O)[NH:21][H:20].c1ccc(CCCN[NH2:10])cc1>>CC(C(N)=O)S(=O)(=O)[NH-:21].c1ccc(CCCN[NH2+:10][H:20])cc1 10=20;20,21=21",
